US06242443B1
6-Chloro-3-(1,2,2-trimethylpropyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,6-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (500 mg; 1.99 mmol) and 1,2,2-trimethylpropylamine (500 mg; 5.62 mmol) with the use of same procedure as in example 21 250 mg (39.8%) of the title compound was prepared; m.p. >220° C.; 1H-NMR (DMSO-d6) ppm; 10.3 (s, 1H, NH), 7.70 (d, 1H, H-8), 7.31 (dd, 1H, H-7), 7.25 (br d, 1H, H-5), 7.15 (br, 1H, NH), 3.75 (q, 1H, CH), 1.10 (d, 3H, CH3), 0.9 (s, 9H, 3×CH3). Analysis: C13H18ClN3O2S requires C, 49.44; H, 5.74; N, 13.3; (found C, 49.37; H, 6.04; N, 13.11).

reactant | 3,6-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1.99 mmol, 500 mg | ClC1=NS(C2=C(N1)C=C(C=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | 1,2,2-trimethylpropylamine | 5.62 mmol, 500 mg | CC(C(C)(C)C)N | C6H15N
product | 6-Chloro-3-(1,2,2-trimethylpropyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C=CC2=C(NC(=NS2(=O)=O)NC(C(C)(C)C)C)C1 | C13H18ClN3O2S
